US05648373
2-Heptyl-4,5-diphenylimidazole (1 g) was reacted with ethyl 8-bromooctanoate (1.6 g) in a method similar to Example 9 with a reaction time of 48 hours. Chromatography on silica gel (hexane/ethyl acetate) gave 1-(7-ethoxycarbonyl-heptyl)-2-heptyl-4,5-diphenylimidazole (1.3 g, 87%) as an oil. Found: C, 78.98; H, 9.22; N, 5.76%; C32H44N2O2 requires: C, 78.64; H, 9.08; N, 5.73%;

reactant | 2-Heptyl-4,5-diphenylimidazole | 1 g | C(CCCCCC)C=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H26N2
reactant | ethyl 8-bromooctanoate | 1.6 g | BrCCCCCCCC(=O)OCC | C10H19BrO2
product | 1-(7-ethoxycarbonyl-heptyl)-2-heptyl-4,5-diphenylimidazole | 1.3 g, 87% | C(C)OC(=O)CCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCC | C32H44N2O2
